*
R1 N077 N001 1
R2 N078 N077 2
R3 N079 N078 3
R4 N080 N079 4
R5 N081 N080 5
R6 N075 N076 1
R7 N074 N075 2
R8 N073 N074 3
R9 N072 N073 4
R10 N001 N072 5
V1 0 N001 SINE(0 10 1k)
R11 0 N081 5
R12 N076 0 1
R13 N067 N001 1
R14 N068 N067 2
R15 N069 N068 3
R16 N070 N069 4
R17 N071 N070 5
R18 N065 N066 1
R19 N064 N065 2
R20 N063 N064 3
R21 N062 N063 4
R22 N001 N062 5
R23 0 N071 5
R24 N066 0 1
R25 N057 N001 1
R26 N058 N057 2
R27 N059 N058 3
R28 N060 N059 4
R29 N061 N060 5
R30 N055 N056 1
R31 N054 N055 2
R32 N053 N054 3
R33 N052 N053 4
R34 N001 N052 5
R35 0 N061 5
R36 N056 0 1
R37 N047 N001 1
R38 N048 N047 2
R39 N049 N048 3
R40 N050 N049 4
R41 N051 N050 5
R42 N045 N046 1
R43 N044 N045 2
R44 N043 N044 3
R45 N042 N043 4
R46 N001 N042 5
R47 0 N051 5
R48 N046 0 1
R49 N037 N001 1
R50 N038 N037 2
R51 N039 N038 3
R52 N040 N039 4
R53 N041 N040 5
R54 N035 N036 1
R55 N034 N035 2
R56 N033 N034 3
R57 N032 N033 4
R58 N001 N032 5
R59 0 N041 5
R60 N036 0 1
R61 N027 N001 1
R62 N028 N027 2
R63 N029 N028 3
R64 N030 N029 4
R65 N031 N030 5
R66 N025 N026 1
R67 N024 N025 2
R68 N023 N024 3
R69 N022 N023 4
R70 N001 N022 5
R71 0 N031 5
R72 N026 0 1
R73 N017 N001 1
R74 N018 N017 2
R75 N019 N018 3
R76 N020 N019 4
R77 N021 N020 5
R78 N015 N016 1
R79 N014 N015 2
R80 N013 N014 3
R81 N012 N013 4
R82 N001 N012 5
R83 0 N021 5
R84 N016 0 1
R85 N007 N001 1
R86 N008 N007 2
R87 N009 N008 3
R88 N010 N009 4
R89 N011 N010 5
R90 N005 N006 1
R91 N004 N005 2
R92 N003 N004 3
R93 N002 N003 4
R94 N001 N002 5
R95 0 N011 5
R96 N006 0 1
.tran 0 1ms 0 1us
.backanno
.end
